US07799812B2
2,6-Dimethoxy-3-[3-(2-trifluoromethyl-biphenyl-4-yl)-[1,2,4]oxadiazol-5-yl]-pyridine
2,6-Dimethoxy-nicotinic acid (1 eq) is dissolved in dioxane and EDC.HCl (1.3 eq) and HOBt (1.1 eq) are added. After 30 minutes at room temperature N-hydroxy-2-trifluoromethyl-biphenyl-4-carboxamidine (1 eq) is added and the reaction mixture is kept at 900 degrees Celsius for 16 hours. After removal of the solvent the residue is dissolved in ethyl acetate and extracted with saturated NaHCO3 solution. Title compound is obtained after drying of the organic phase over Na2SO4 on silica gel using c-hexane/ethyl acetate→c-hexane/ethyl acetate 100→70/30 as mobile phase.

reactant | 2,6-Dimethoxy-nicotinic acid | 1 eq | COC1=C(C(=O)O)C=CC(=N1)OC | C8H9NO4
reactant | EDC.HCl | 1.3 eq | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 1.1 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-hydroxy-2-trifluoromethyl-biphenyl-4-carboxamidine | 1 eq | ONC(=N)C1=CC(=C(C=C1)C1=CC=CC=C1)C(F)(F)F | C14H11F3N2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2,6-Dimethoxy-3-[3-(2-trifluoromethyl-biphenyl-4-yl)-[1,2,4]oxadiazol-5-yl]-pyridine | COC1=NC(=CC=C1C1=NC(=NO1)C1=CC(=C(C=C1)C1=CC=CC=C1)C(F)(F)F)OC | C22H16F3N3O3
